US07338960B2
Ethyl [(4-{[1-(6-bromo-2-pyridinyl)pentyl]oxy}-2-ethylphenyl)oxy]acetate
To a stirred solution of 1-(6-bromo-2-pyridinyl)-1-pentanol (250 mg, 1.02 mmol) and ethyl (4-hydroxy-2-ethylphenoxy)acetate (230 mg, 1.02 mmol) in dry THF (21 mL) at 0° C. (ice/water bath) under nitrogen was added ADDP (517 mg, 2.04 mmol) followed by nBu3P (510 μL, 2.04 mmol) drop-wise. The mixture was stirred with slow warming to rt over 18 hours and then concentrated under vacuum, diluted with EtOAc (150 mL) and washed with water (3×75 mL), dried (MgSO4), filtered and reduced to give an oil. Purification by SPE (silica, 10 g Cartridge) eluting with cyclohexane:EtOAc (gradient 20:1 to 5:1) afforded the title compound (307 mg).

reactant | 1-(6-bromo-2-pyridinyl)-1-pentanol | 1.02 mmol, 250 mg | BrC1=CC=CC(=N1)C(CCCC)O | C10H14BrNO
reactant | ethyl (4-hydroxy-2-ethylphenoxy)acetate | 1.02 mmol, 230 mg | OC1=CC(=C(OCC(=O)OCC)C=C1)CC | C12H16O4
reactant | ADDP | 2.04 mmol, 517 mg | C1CCN(CC1)C(=O)N=NC(=O)N2CCCCC2 | C12H20N4O2
reactant | nBu3P | 2.04 mmol, 510 μL | P(CCCC)(CCCC)CCCC | C12H27P
solvent | THF | 21 mL | C1CCOC1 | C4H8O
product | Ethyl [(4-{[1-(6-bromo-2-pyridinyl)pentyl]oxy}-2-ethylphenyl)oxy]acetate | 307 mg | BrC1=CC=CC(=N1)C(CCCC)OC1=CC(=C(C=C1)OCC(=O)OCC)CC | C22H28BrNO4
